US05364866
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4,5-dichlorophthalimide
A mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (2.83 gm, 10.7 mmol) and 4,5-dichlorophthalic anhydride (2.56 gm, 11.93 mmol, 1.1 eq) in methylene chloride (100 ml, DCM) was stirred for 2 h, white solids precipitated and the TLC showed disappearance of the starting material. The solvent was removed, and the crude solid was loaded onto a flash chromatography column (28 gm, SiO2, sorbsil C-30, eluted with 1% MeOH in DCM; 0.5% of NH4OH was added towards the end of elution). The material thus purified weighed 2.26 gm as white crystals. Recrystallization twice from a large volume of hot ethanol (400 ml) yielded 1.57 gm of white shining crystals, m.p.=132°-134° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 10.7 mmol, 2.83 gm | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | 4,5-dichlorophthalic anhydride | 11.93 mmol, 2.56 gm, 1.1 eq | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-4,5-dichlorophthalimide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C=3C(C2=O)=CC(=C(C3)Cl)Cl)=O)C=C1 | C22H18Cl2FN3O3
